US03974281
The reaction of 5-methyl-2-(1H)-pyridone and 1-chloro-4-iodobenzene (Aldrich Chemical Company) in the procedure of Example 1 yields 1-(4'-chlorophenyl)-5-methyl-2-(1H)-pyridone as a white crystalline solid in 75% yield.

reactant | 5-methyl-2-(1H)-pyridone | CC=1C=CC(NC1)=O | C6H7NO
reactant | 1-chloro-4-iodobenzene | ClC1=CC=C(C=C1)I | C6H4ClI
product | 1-(4'-chlorophenyl)-5-methyl-2-(1H)-pyridone | 75% yield | ClC1=CC=C(C=C1)N1C(C=CC(=C1)C)=O | C12H10ClNO
